US07714009B2
Methyl 2-[(4-bromo-2-methoxy-6-methylphenyl)amino]-1-methyl-1H-benzimidazole-7-carboxylate
A mixture of 1.50 g (6.68 mmol) of methyl 2-chloro-1-methyl-1H-benzimidazole-7-carboxylate and 2.89 g (13.4 mmol) of 4-bromo-2-methoxy-6-methylphenylamine was heated at 100° C. for five days. The cooled reaction was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate, water and brine. The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The thus obtained residue was purified via flash chromatography eluting with 100% dichloromethane to elute the residual 4-bromo-2-methoxy-6-methylphenylamine and 30% ethyl acetate/hexanes to give 356 mg (13%) of the title compound.

reactant | methyl 2-chloro-1-methyl-1H-benzimidazole-7-carboxylate | 6.68 mmol, 1.50 g | ClC1=NC2=C(N1C)C(=CC=C2)C(=O)OC | C10H9ClN2O2
reactant | 4-bromo-2-methoxy-6-methylphenylamine | 13.4 mmol, 2.89 g | BrC1=CC(=C(C(=C1)C)N)OC | C8H10BrNO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 2-[(4-bromo-2-methoxy-6-methylphenyl)amino]-1-methyl-1H-benzimidazole-7-carboxylate | 356 mg, 13% | BrC1=CC(=C(C(=C1)C)NC1=NC2=C(N1C)C(=CC=C2)C(=O)OC)OC | C18H18BrN3O3
